Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1],6.87583348895
[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-7.76132146768
[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.49590831533
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11]>>[H:1][C:2]#[C:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],-1.29505203534
[H:11].[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-3.311868693
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.04706976273
[O:1]=[C:2][O:3][C:4]#[C:5][H:6]>>[C:2][O:3][C:4]#[C:5][H:6].[O:1],6.971290635549999
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.09203416581
[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[C:2],6.434698180830001
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]=[C:3]([H:4])[H:5],0.991528128119
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],5.58382333
[C:1][O:2][C:3]#[C:4][H:5]>>[C:1].[O:2][C:3]#[C:4][H:5],3.25550854921
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.800066505657
[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.8778323148
[H:1][O:2][C:3]#[C:4][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.15582355229
[O:1]=[C:2][C:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9],-0.33596623789
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.53853521705
[C:7]([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-3.2235602130000003
[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.69173158844
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.6376170449
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:10][H:11],2.16248466917
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.61971739985
[H:1][O:2][C:3]([H:4])([H:5])[C:12]([C:11]([C:8]=[C:6]([H:7])[H:10])([H:9])[H:14])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1([H:7])[C:8]([H:9])([H:10])[C:11][C:12]1([H:13])[H:14],0.0451830175198
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-5.40434006218
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[H:1][C:2],8.54668482225
[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-3.28809954662
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.57232325545
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],3.0821136426
[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-1.99005135757
[C:2]([O:3][H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.70179481261
